### ISSUE TITLE
Argument after colon before class blows TC answer size

### ISSUE THREAD

**Issue by lecopivo** [leanprover/lean4#1052]
I have encountered a case where adding an unused argument `∀ (p : Unit), P` to class `P` roughly triples the size of the answer. In my actual code, the blow up is even bigger roughly 4.5 times .

mwe:
```
section Obj_IsDif

  class Obj (A : Type) : Prop

  instance {α A : Type} [Obj A] : Obj (α → A) := ⟨⟩

  variable {α β γ η} [Obj α] [Obj β] [Obj γ] [Obj η]

  class IsDif [Obj α] [Obj β] (f : α → β) : Prop

  instance identity : IsDif fun a : α => a := ⟨⟩
  instance swap (f : α → β → γ) [∀ a, IsDif (f a)] : IsDif (λ b a => f a b) := ⟨⟩
  instance parm (f : α → β → γ) [IsDif f] (b : β) : IsDif (λ a => f a b) := ⟨⟩
  instance comp (f : β → γ) (g : α → β) [IsDif f] [IsDif g] : IsDif (λ a => f (g a)) := ⟨⟩

end Obj_IsDif

section PowType

  class PowType (X : Type) where
    powType : Nat → Type
    get {n} : powType n → Fin n → X

  notation X "^" n => PowType.powType X n

  instance (n) (X : Type) [PowType X] [Obj X] : Obj (X^n) := ⟨⟩
  def PowType.powType.getOp {X n} [PowType X] (self : X^n) (idx : Fin n) : X := PowType.get self idx
  instance {X n} [PowType X] [Obj X] : IsDif λ (x : X^n) (i : Fin n) => x[i] := ⟨⟩

end PowType

section Sum

  def sum {α} [Obj α] {n} : (Fin n → α) → α := sorry
  instance {α} [Obj α] : IsDif λ f : Fin n → α => sum f := ⟨⟩

end Sum

variable (X : Type) [PowType X] [Obj X]
variable (n : Nat) (m : Nat) (i : Fin n)

abbrev P := IsDif fun (dx : Fin n → X^m) => sum λ j => (dx i)[j]

set_option synthInstance.maxSize 47 in
example : P X n m i := by infer_instance done
set_option synthInstance.maxSize 47 in
example (p : Unit) : P X n m i := by infer_instance done 
set_option synthInstance.maxSize 146 in
example : ∀ (p : Unit), P X n m i := by infer_instance done  -- fails with the default 128
```

At least, I would expect a better error message in the last case, `∀ (p : Unit), P X n m i`, that would indicate I should increase the `maxSize`. It took me quite a long time to figure that out as the error message is simply `failed to synthesize instance  Unit → P X n m i`

Ideally, the answer size should be the same as for `P X n m i`.

Tested on lean4:nightly-2022-03-17

**Comment by lecopivo** [comment]
I have checked Lean's source code to see what causes `discareded` message and it happens then the size of the answer exceeds `synthInstance.maxSize`. 

So I have found the minimal `maxSize` allowing successful synthesis:
```
set_option synthInstance.maxSize 47 in
example : P X n m i := by infer_instance done  -- works
set_option synthInstance.maxSize 47 in
example (p : Unit) : P X n m i := by infer_instance done  -- works
set_option synthInstance.maxSize 146 in
example : ∀ (p : Unit), P X n m i := by infer_instance done  -- works
```
Why does the `∀ (p : Unit)` almost triples the answer size?

**Comment by lecopivo** [comment]
A very simple example where adding `∀ (p : Unit)` double the answer size:
```
instance {α β} [Add α] [Add β] : Add (α × β) := ⟨λ (a,b) (c,d) => (a+c,b+d)⟩

set_option synthInstance.maxSize 5 in
example : Add (Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 7 in
example : Add (Nat × Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 9 in
example : Add (Nat × Nat × Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 11 in
example : Add (Nat × Nat × Nat × Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 13 in
example : Add (Nat × Nat × Nat × Nat × Nat × Nat × Nat) := by infer_instance done


set_option synthInstance.maxSize 9 in
example : ∀ (p : Unit), Add (Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 13 in
example : ∀ (p : Unit), Add (Nat × Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 17 in
example : ∀ (p : Unit), Add (Nat × Nat × Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 21 in
example : ∀ (p : Unit), Add (Nat × Nat × Nat × Nat × Nat × Nat) := by infer_instance done
set_option synthInstance.maxSize 25 in
example : ∀ (p : Unit), Add (Nat × Nat × Nat × Nat × Nat × Nat × Nat) := by infer_instance done
```

**Comment by leodemoura** [comment]
You are asking the TC module to synthesize values for two different instances `Add (Nat × Nat × Nat)` and `∀ (p : Unit), Add (Nat × Nat × Nat)`. The TC module applies the "remove redundant variable" feature several times in the latter. The trace makes it is clear what is going on. `set_option trace.Meta.synthInstance true`. 
The results for `Add (Nat × Nat × Nat)` and `∀ (p : Unit), Add (Nat × Nat × Nat)` look similar because we eagerly beta-reduce the transformers used in the "remove redundant variable" step.
The `maxSize` is used to control the cost of the TC procedure, and it makes sense to require a bigger threshold for a synthesis problem that is hard to synthesize.

> At least, I would expect a better error message in the last case, ∀ (p : Unit), P X n m i, that would indicate I should increase the maxSize. It took me quite a long time to figure that out as the error message is simply failed to synthesize instance Unit → P X n m i

The trace makes it clear. In the future, we will have better infrastructure to navigate the traces, and diagnose these problems. Note that when the threshold is hit, we do not interrupt the search with an exception, we just discard the current search node. In principle, we could accumulate every single node where the search space was pruned, but this information is already there in the trace. We find nodes such as
```
[Meta.synthInstance.discarded] size: 8 ≥ 5, Unit → Add (Nat × Nat × Nat)
```

BTW, it is not clear to me why you need to invoke `infer_instance` at instances such as `∀ (p : Unit), P`.

> Ideally, the answer size should be the same as for P X n m i.

Not sure, the search is more expensive for `∀ (p : Unit), Add (Nat × Nat × Nat)`.

**Comment by leodemoura** [comment]
I am planning to close this issue soon. If you object say something.

**Comment by lecopivo** [comment]
> BTW, it is not clear to me why you need to invoke infer_instance at instances such as ∀ (p : Unit), P.

This was a subgoal that was causing troubles in a more complicated class synthesis. 

Now I agree that the tracing is clear if you know what `discarded` means. For a long time, I was convinced that the problem was in checking some defEq and I was stuck in that mindset.

> Not sure, the search is more expensive for ∀ (p : Unit), Add (Nat × Nat × Nat).

I feel that search for `∀ (p : Unit), Add (Nat × Nat × Nat)` should be at most one more step more complicated then the search for `Add (Nat × Nat × Nat)`. It should not be twice as more expensive.

The "remove redundant variable" makes sure that redundant variables never appear in the keys on the TC table. However, this is not completely true. The call to `newSubGoal` in [`consume`](https://github.com/leanprover/lean4/blob/1a5822a3e24191c68ac5b2590c2ba15185e2cae1/src/Lean/Meta/SynthInstance.lean#L492) is protected from redundant variables, but this is not the case in [`main`](https://github.com/leanprover/lean4/blob/1a5822a3e24191c68ac5b2590c2ba15185e2cae1/src/Lean/Meta/SynthInstance.lean#L583).

**Comment by leodemoura** [comment]
> The "remove redundant variable" makes sure that redundant variables never appear in the keys on the TC table. However, this is not completely true. The call to newSubGoal in [consume](https://github.com/leanprover/lean4/blob/1a5822a3e24191c68ac5b2590c2ba15185e2cae1/src/Lean/Meta/SynthInstance.lean#L492) is protected from redundant variables, but this is not the case in [main](https://github.com/leanprover/lean4/blob/1a5822a3e24191c68ac5b2590c2ba15185e2cae1/src/Lean/Meta/SynthInstance.lean#L583). I'm not 100% sure but I think that adding the "remove redundant variable" feature for main goals would resolve the issue.


Unfortunately, I don't have time to focus on this kind of extension/modification to the TC module and/or review PRs containing them.
We are trying to prioritize tasks, I agree it would be nice if `∀ (p : Unit), Add (Nat × Nat × Nat)` was not twice as expensive, but I think this is not essential. There are zillions of more important places where we have similar issues.

**Comment by lecopivo** [comment]
Sorry to bother with it. Initially, I thought it was a bug somewhere and as I was writing down the issue more carefully I realized that it was just a TC answer size issue.
